US04082843
A solution of 6-[3-(3-t-butylamino-2-hydroxypropoxy)-4-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone in ethanol was heated under reflux with palladium on charcoal and excess of cyclohexene for 18 hours. Evaporation of the filtered solution under reduced pressure gave 6-[4-amino-3-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 6-[3-(3-t-butylamino-2-hydroxypropoxy)-4-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC=1C=C(C=CC1[N+](=O)[O-])C=1CCC(NN1)=O)O | C17H24N4O5
reactant | cyclohexene | C1=CCCCC1 | C6H10
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 6-[4-amino-3-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | NC1=C(C=C(C=C1)C=1CCC(NN1)=O)OCC(CNC(C)(C)C)O | C17H26N4O3
